US06608078B2
A mixture of 1-benzyl-4-hydroxy-3-n-propylpiperidine (3.3 g, 14.16 mmole) and 20% palladium hydroxide (0.25 g) in methanol (25 ml) was stirred in hydrogen atmosphere (1 atm.) for 24 hr at 30° C. Catalyst was filtered off, washed with methanol, filtrate was concentrated to dryness to give 4-hydroxy-3-n-propylpiperidine as oil. Yield 1.8 g (90%), C8H17NO, m/z 144 (M+1), PMR (CDCl3): 0.92 (3H, t, CH3, j=8 Hz), 1.2-1.52 (5H, m, 2×CH2 & H3), 1.72 (1H, m, H5), 1.94 (2H, m, H5, & OH, D2O exchangeable), 2.22 (1H, m, H2), 2.62 (1H, m, H6), 3.12 (1H, m, H2), 3.3 (1H, m, H6), 3.5 (1H, bs, NH, D2O exchangeable), 3.98 (1H, m, H4).

reactant | 1-benzyl-4-hydroxy-3-n-propylpiperidine | 14.16 mmole, 3.3 g | C(C1=CC=CC=C1)N1CC(C(CC1)O)CCC | C15H23NO
solvent | methanol | 25 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | palladium hydroxide | 0.25 g | [OH-].[Pd+2].[OH-]
product | 4-hydroxy-3-n-propylpiperidine | OC1C(CNCC1)CCC | C8H17NO
